US08865682B2
To a −78° C. stirred solution of 4-hydroxy-5,5-dimethyl-5H-furan-2-one (250 mg, 1.95 mmol) in 18 mL of anhydrous CH2Cl2, was added triethylamine (0.40 mL, 2.9 mmol) and Tf2O (0.49 mL, 2.9 mmol). The reaction was stirred at −78° C. for 30 minutes, and quenched with saturated NH4Cl solution (10 mL). The mixture was warmed up to room temperature and separated. The aqueous layer was extracted with CH2Cl2 (2×20 mL). All organic layers were combined, dried over Na2SO4 and evaporated to brown oil, which was purified by plugging through a short pad of silica gel column with EtOAc/hexanes (1/3). Evaporation of solvents gave 2,2-dimethyl-5-oxo-2,5-dihydrofuran-3-yl trifluoromethanesulfonate as a light brown oil (450 mg, 89%).

reactant | 4-hydroxy-5,5-dimethyl-5H-furan-2-one | 1.95 mmol, 250 mg | OC1=CC(OC1(C)C)=O | C6H8O3
reactant | triethylamine | 2.9 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
reactant | Tf2O | 2.9 mmol, 0.49 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-5-oxo-2,5-dihydrofuran-3-yl trifluoromethanesulfonate | 450 mg, 89% | FC(S(=O)(=O)OC=1C(OC(C1)=O)(C)C)(F)F | C7H7F3O5S
